US06660753B2
A mixture of methyl 3-(bromomethyl)-5-iodobenzoate (500 mg, 1.4 mmol), potassium carbonate (388 mg, 2.8 mmol), and imidazole (96 mg, 1.4 mmol) in N,N-dimethylformamide (4 mL) was heated at 70° C. for 3 hours. After cooling, the reaction mixture was diluted with water and then extracted with dichloromethane. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Silica gel chromatography using 100% ethyl acetate afforded 242 mg (51%) of methyl 3-(imidazol-1-ylmethyl)-5-iodobenzoate as a white solid.

reactant | methyl 3-(bromomethyl)-5-iodobenzoate | 1.4 mmol, 500 mg | BrCC=1C=C(C(=O)OC)C=C(C1)I | C9H8BrIO2
reactant | potassium carbonate | 2.8 mmol, 388 mg | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole | 1.4 mmol, 96 mg | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 3-(imidazol-1-ylmethyl)-5-iodobenzoate | 242 mg, 51% | N1(C=NC=C1)CC=1C=C(C(=O)OC)C=C(C1)I | C12H11IN2O2
